US06833480B2
A solution of 2,3-dichlorophenylacetylene (0.02 mol), 4-bromobenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) is subjected to the General Procedure to form (Z)-2,3-dichlorostyryl-4-bromobenzylsulfide. The title compound is obtained following oxidation of the sulfide, according to the General Procedure.

reactant | 2,3-dichlorophenylacetylene | 0.02 mol | ClC1=C(C=CC=C1Cl)C#C | C8H4Cl2
reactant | 4-bromobenzyl mercaptan | 0.02 mol | BrC1=CC=C(CS)C=C1 | C7H7BrS
reactant | sodium | 0.02 g | [Na] | Na
product | (Z)-2,3-dichlorostyryl-4-bromobenzylsulfide | ClC1=C(\C=C/C(C2=CC=C(C=C2)Br)SC(C2=CC=C(C=C2)Br)\C=C/C2=C(C(=CC=C2)Cl)Cl)C=CC=C1Cl | C30H20Br2Cl4S
